US07045653B2
Sodium (3R)-3-[(tert-butoxycarbonyl)amino]-4-hydroxybutanoate
A solution of Nα-(tert-butyloxycarbonyl)-D-aspartic anhydride (J. Med. Chem. 1996; 3842) (19 g, 88 mmol) in tetrahydrofuran (150 ml) was added dropwise to an ice-cooled suspension of sodium borohydride (3.4 g, 88 mmol) in tetrahydrofuran (75 ml), and once addition was complete, the mixture was stirred for a further 2 hours. Acetic acid (30 ml) was added dropwise and the mixture then evaporated under reduced pressure. The residue was partitioned between water (150 ml) and ether (150 ml) and 2N hydrochloric acid (20 ml) carefully added. The layers were separated, the aqueous phase further extracted with ether (2×150 ml), and the combined organic solutions dried (MgSO4) and evaporated under reduced pressure. The product was dissolved in 2N sodium hydroxide (50 ml), and the solution stirred for 1 hour. The mixture was washed with ether (2×50 ml), acidified with 2N hydrochloric acid (50 ml) and extracted with dichloromethane (4×100 ml). The combined dichloromethane extracts were dried (MgSO4) and evaporated under reduced pressure. The acid product (7.8 g, 35.6 mmol) was dissolved in methanol (100 ml) sodium hydroxide (1.42 g, 35.6 mmol) added, and the reaction stirred at room temperature for 1 hour. The mixture was evaporated under reduced pressure the residue azeotroped with toluene and then triturated with diisopropyl ether to afford the title compound as a white solid, 8.6 g; 1H NMR (DMSOd6, 400 MHz) δ: 1.38 (s, 9H), 2.17 (m, 2H), 3.21–3.50 (m, 3H), 6.74 (d, 1H).

reactant | Nα-(tert-butyloxycarbonyl)-D-aspartic anhydride | 88 mmol, 19 g | C(C)(C)(C)OC(=O)N[C@@H]1CC(=O)OC1=O | C9H13NO5
reactant | sodium borohydride | 88 mmol, 3.4 g | [BH4-].[Na+]
reactant | Acetic acid | 30 ml | C(C)(=O)O | C2H4O2
reactant | methanol | 35.6 mmol, 100 ml, 1.42 g | CO | CH4O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | Sodium (3R)-3-[(tert-butoxycarbonyl)amino]-4-hydroxybutanoate | C(C)(C)(C)OC(=O)N[C@H](CC(=O)[O-])CO.[Na+] | InChI=1S/C9H17NO5.Na/c1-9(2,3)15-8(14)10-6(5-11)4-7(12)13;/h6,11H,4-5H2,1-3H3,(H,10,14)(H,12,13);/q;+1/p-1/t6-;/m1./s1
